US04737439
E. (NA-V) 2-Chloroacetoxy-1,2-di-(2-pyridyl)ethanone
Chloroacetyl chloride (1.4 g, 0.0123 mole) in an equal amount of dry acetonitrile was added dropwise with stirring to 5.4 g (0.0252 mole) of α-pyridoin in 50 ml of dry acetonitrile. The reaction mixture was stirred one hour. The orange solid was filtered off and washed with acetonitrile.

reactant | Chloroacetyl chloride | 0.0123 mole, 1.4 g | ClCC(=O)Cl | C2H2Cl2O
reactant | α-pyridoin | 0.0252 mole, 5.4 g | C1=CC=NC(=C1)C(C(=O)C2=CC=CC=N2)O | C12H10N2O2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-Chloroacetoxy-1,2-di-(2-pyridyl)ethanone | ClCC(=O)OC(C(=O)C1=NC=CC=C1)C1=NC=CC=C1 | C14H11ClN2O3
